US07157470B2
6-Chloronaphthalene-2-sulfonic acid {1-[2-fluoro-4-(2-oxo-piperidin-1-yl)-phenyl]-2-oxo-piperidin-3-yl}-amide
Part A. Tetrahydro-furan-2-carboxylic acid (2-fluoro-4-iodophenyl)amide: Tetrahydro-2-furoic acid (4.9 g, 42.19 mmol) was dissolved in CH2Cl2 (250 mL), and oxalyl chloride (1.5 eq.) was added, followed by dropwise addition of DMF (0.5 mL). The resulting mixture was stirred at room temperature for 18 h. The solvent was removed in vacuo and the residue dried under vacuum, then dissolved in 250 mL CH2Cl2. To this solution was added 2-fluoro-4-iodoaniline (10 g, 42.19 mmol) and DMAP (12.9 g, 105.48 mmol), and the mixture was stirred at room temperature for 18 h. The solvent was removed and the crude product was purified by chromatography on silica gel (4:1/Hexane:EtOAc) to give the amide (13.4 g, 96%) as a solid. MS (API+) m/z 335.9 [(M+H)+ 15], 376.9 [(M+H+AcCN)+ 100]. Part B. Acetic acid 1-(2-fluoro-4-iodophenyl)-2-oxo-piperidin-3-yl ester: Boron tribromide (3.78 mmol, 7.8 mL of a 1M solution in CH2Cl2) was added to a solution of the compound of Ex. 1, Part A (2.53 g, 7.55 mmol) in 40 mL CH2Cl2. The mixture was stirred at room temperature for 1.5 h and then evaporated to dryness in vacuo. The crude bromide was dissolved in heptane (100 mL) and Ac2O (1.54 g, 15.1 mmol) was added, after which the mixture was heated to reflux for 4 h. The reaction was cooled and concentrated, then quenched with 200 mL water, and extracted with EtOAc. The combined extracts were washed with H2O, brine, dried over MgSO4, filtered and concentrated to give a semi-solid mass (3.7 g). MS (ES−) m/z 456.1; 458.1 [(M−H)− 80]. This product was dissolved in DMA (100 mL), and treated with diisopropylamine (2.3 g, 22.65 mmol), and the resulting mixture was heated to reflux for 18 h. The reaction was cooled to room temperature and quenched with 500 mL water, then extracted with EtOAc, washed with brine and dried over MgSO4. After filtration and concentration, the crude was purified by chromatography on silica get (4:1/Hexane:EtOAc) to give the the desired acetoxylactam (2.7 g, 96%) MS (ES) m/z 441.0 [(M+Na+AcCN)+ 100]. Part C. 1-(2-Fluoro-4-iodophenyl)-3-hydroxy-piperidin-2-one: The compound of Ex. 1, Part B (6.1 g, 16.18 mmol) was dissolved in a mixture of MeOH:H2O (50:3 mL) and K2CO3 (5.6 g, 40.45 mmol) was added. The resulting mixture was stirred at room temperature for 18 h. The solvent was removed in vacuo, water was added followed by extraction with EtOAc. The combined extracts were washed with brine, dried over MgSO4, filtered and concentrated to give (5.3 g, 98%) the alcohol as a white solid. MS (ES) m/z 336.2 [(M+H)+ 100]. Part D. 3-(t-Butyldimethylsilanyloxy)-1-(2-fluoro-4-iodophenyl)piperidin-2-one: A solution of the compound of Ex. 1, Part C (1 g, 2.98 mmol) and imidazole (0.9 g, 13.12 mmol) in 10 mL DMF was treated with t-butyldimethylsilyl chloride (1 g, 6.56 mmol), and the mixture was heated at 40° C. for 18 h. The reaction mixture was cooled to room temperature and diluted with 200 mL water, extracted into EtOAc, washed with water, brine and dried over MgSO4, followed by filtration and concentration to give the silyl ether (1.5 g, >99%) MS (API+) m/z 450.1 [(M+H)+ 100]. Part E. 1-[3-fluoro-4-(3-hydroxy-2-oxopiperidin-1-yl)phenyl]piperidin-2-one: A mixture of the compound of Ex. 1, Part D, (0.5 g, 1.11 mmol), valerolactam (0.2 g, 2.22 mmol), K3PO4 (0.47 g, 2.22 mmol), 1,2-cyclohexyldiamine (13 mg, 0.11 mmol), and CuI (21 mg, 0.11 mmol) in 1 mL Dioxane was degassed with N2 and heated at 85° C. for 18 hr. The solvent was removed in vacuo and 50 mL EtOAc was added. The mixture was filtered through a pad of Celite, concentrated and purified by prep C18 HPLC to give the deprotected product (0.12 g, 26%). MS (ES) m/z 307.3 [(M+H)+ 100]. Part F. 1-[4-(3-bromo-2-oxopiperidin-1-yl)-3-fluorophenyl]piperidin-2-one: The compound of Ex. 1, Part E (0.12 g, 0.39 mmol) was dissolved in 10 mL CH2Cl2 and treated with PBr3 (0.21 g, 0.78 mmol). The mixture was stirred at room temperature for 18 h then quenched with ice water, extracted into CH2Cl2, washed with brine, and dried over MgSO4. After filtration and concentration, the crude product was purified by chromatography on silica gel (2% MeOH in CH2Cl2) to give the bromide (89 mg, 62%). MS (ESI) m/z 369.2 [(M+H)+ 90]. Part G. 1-[4-(3-amino-2-oxopiperidin-1-yl)-3-fluorophenyl]piperidin-2-one: The compound of Ex. 1, Part F (89 mg, 0.24 mmol) was dissolved in 1 mL DMF and NaN3 (47 mg, 0.73 mmol) was added. The resulting mixture was heated at 50° C. for 3 h. Solvent was removed in vacuo and the crude azide was dried under vacuum. MS (ESI) m/z 332.2 [(M+H)+ 100]. A solution of the azide in MeOH was added to a suspension of SnCl2 (68 mg, 0.36 mmol) in 2 mL MeOH, and then the mixture was stirred at room temperature for 18 h. The solvent was removed in vacuo and 10 mL 1 N NaOH solution was added, followed by extracted with CHCl3. The combined extracts were washed with(brine and dried over MgSO4. Filtration and concentration gave the crude amine (83 mg, >90%) as a white solid. MS (ESI) m/z 306.3 [(M+H)+ 100]. Part H. 6-Chloronaphthalene-2-sulfonic acid {1-[2-fluoro-4-(2-oxo-piperidin-1-yl)phenyl]-2-oxo-piperidin-3-yl}amide: The compound of Ex. 1, Part G in a 1:1 mixture of 1M potassium charbonate solution and ethylacetate was treated with 1.2 eq of 6-chloronaphthalene-2-sulfonylchloride, and the resulting mixture stirred for 90 min under N2. The reaction was then diluted with water and extracted #X with ethyl acetate. The combined organic layers were washed with brine and dried over sodium sulfate, filtered and evaporated in vacuo. Purification by flash chromatography provided the title compound. 1H NMR (CD3OD) δ 8.49 (s, 1H), 8.02 (m, 2H), 7.93 (m, 2H), 7.57 (m, 1H), 7.25–7.04 (m, 3H), 4.08 (m, 1H), 3.61 (m, 4H), 2.49 (m, 2H), 2.26 (m, 1H), 2.01 (m, 3H), 1.92 (m, 4H). MS (ES) m/z 530.3 [(M+H)+ 100]. Part I. {(6-Chloronaphthalene-2-sulfonyl)-[1-(3-fluoro-2′-methanesulfonylbiphenyl-4-yl)-2-oxo-piperidin-3-yl]amino}-acetic acid: A mixture of the compound of Ex. 1, Part H (0.50 g, 0.85 mmole), t-butyl bromoacetate (147 ul, 1.0 mmole), 1M potassium carbonate (10 mL) and ethyl acetate (10 mL) was stirred under nitrogen for 24 h. The mixture was diluted with water and extracted with ethyl acetate (3×50 mL), washed with brine, dried over sodium sulfate and concentrated. The crude ester was taken up in methylene chloride and 3 mL of TFA was added. This mixture was stirred for 2 h at room temperature then concentrated and dried under vacuum to give the desired product. (0.24 g, 44% yield). 1H (CDCl3) δ 8.47 (s, 1H), 8.22–8.19 (d, 1H, J=1.5 Hz), 7.91 (s, 4H), 7.66–7.55 (m, 3H), 7.34–7.31 (d, 1H, J=1.5 Hz), 7.26–7.21 (m, 3H), 3.82–3.79 (m, 1H), 3.66–3.52 (m, 2H), 2.71 (s, 3H), 2.63 (m, 1H), 2.03–1.98 (m, 2H). MS (ESI+) m/z 645.3 (M+1)+. Part J. 2-{(6-Chloronaphthalene-2-sulfonyl)-[1-(3-fluoro-2′-methanesulfonylbiphenyl-4-yl)-2-oxo-piperidin-3-yl]-amino}-N-(2-dimethylaminoethyl)-N-methylacetamide, trifluoroacetate: A solution of the compound of Ex. 1, Part H (25 mg, 0.004 mmole),N,N,N′-trimethylethylenediamine (6.0 mg, 0.006 mmole), and 4-methylmorpholine (11 ul) and DMF (1 mL) was treated with Castro's Reagent (26 mg, 0.006 mmole), and the resulting mixture was stirred under nitrogen for an additional 48 h. The crude mixture was evaporated in vacuo and purified by prep LC/MS to provide the title compound (18 mg, 64%). 1H (75% CD3OD:25% C6D6) δ 8.58 (s, 1H), 8.14–8.12 (d, 1H, J=5.78 Hz.), 7.99–7.98 (d, 1H, J=11.5 Hz), 7.92–7.90 (d,1H,J=11.5 Hz), 7.86–7.85 (m, 2H), 7.58–7.55 (m, 1H), 7.52–7.48 (m, 2H), 7.20–7.15 (m,3H), 4.77–4.76 (m,1H), 4.23–4.11 (dd, 2H, J=20.2,J=37.1), 3.69–3.61 (m, 2H), 3.47–3.42 (m, 1H), 3.37–3.35 (m, 1H), 3.30–3.12 (m, 2H), 3.05 (s, 1H), 2.79 (s, 9H), 2.27–2.25 (m, 1H), 2.14 (bs, 1H), 1.91–1.75 (m, 2H). MS (ESI+) 729.0 (M+1)+.

reactant | 2-{(6-Chloronaphthalene-2-sulfonyl)-[1-(3-fluoro-2′-methanesulfonylbiphenyl-4-yl)-2-oxo-piperidin-3-yl]-amino}-N-(2-dimethylaminoethyl)-N-methylacetamide | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N(CC(=O)N(C)CCN(C)C)C1C(N(CCC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)F)=O | C35H38ClFN4O6S2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | N,N,N′-trimethylethylenediamine | 0.006 mmole, 6.0 mg | CN(CCNC)C | C5H14N2
reactant | 4-methylmorpholine | 11 ul | CN1CCOCC1 | C5H11NO
reactant | Castro's Reagent | 0.006 mmole, 26 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-Chloronaphthalene-2-sulfonic acid {1-[2-fluoro-4-(2-oxo-piperidin-1-yl)-phenyl]-2-oxo-piperidin-3-yl}-amide | 18 mg, 64% | FC1=C(C=CC(=C1)N1C(CCCC1)=O)N1C(C(CCC1)NS(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C26H25ClFN3O4S
